US07498329B2
(2S)-2-[{(RS)-2-[6-(2,5-dimethyl-1H-pyrrol-1-yl)pyridin-3-yl]-2-hydroxyethyl}amino]propan-1-ol
Water (15.0 L) was added to a suspension of sodium borohydride (4.11 Kg, 109 mol) in tetrahydrofuran (140 L) at 15° C. and the resulting solution stirred at 15° C. A solution of 2-chloro-1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]ethanone (30.0 Kg, 120.6 mol) in tetrahydrofuran (100 L) and water (15 L) was added over 40 minutes maintaining the temperature below 30° C. The resulting solution was stirred for 60 minutes at 15° C. When all the 2-chloro-1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]ethanone was consumed the reaction mixture was treated with concentrated HCl (27% w/w, 47 Kg) over 80 minutes maintaining the temperature below 30° C. The mixture was cooled to 15° C. and NaOH (34% w/w, 79 Kg) was added over 60 minutes maintaining the temperature below 30° C. The mixture was then granulated at 20° C. overnight. When all the chloroalcohol intermediate was consumed, the aqueous phase was separated. DCM (150 L) and water (140 L) were added and the mixture was stirred before allowing the phases to separate. The organic phase was washed with water (2×30 L). (S)-(+)-2-amino-1-propanol (17.2 Kg, 229 mol) and tetrahydrofuran (15 L) were added over 20 minutes. The equipment was set for distillation and DCM was replaced by tetrahydrofuran to give a final volume of 160 litres. The reaction mixture was left at reflux overnight. After cooling to room temperature, DCM (150 L) was added and the mixture was washed with water (3×30 L). The equipment was set for distillation and the tetrahydrofuran and DCM were replaced by acetonitrile to give a final volume of 84 litres. ααα-trifluorotoluene (300 L) was added over 60 minutes, the mixture was cooled to 5° C. over 8 hours and granulated at 5° C. for 6 hours. The product was collected by filtration, washed with ααα-trifluorotoluene (2×30 L) and dried at 45° C. under vacuum overnight. Yield=65% (22.7 Kg) δH (CDCl3, 300 MHz) 1.10 (3H, t), 2.10 (6H, s), 2.7-3.2 (3H, m), 3.45 (1H, m), 3.70 (H, dd), 4.85 (1H, m), 5.90 (2H, s), 7.20 (1H, d), 7.90 (1H, dd), 8.60 (1H, d) ppm. MS m/z 290 (MH+). The intermediate epoxide was characterised as δH (CDCl3, 300 MHz) 2.10 (6H, s), 2.90 (1H, dd), 3.25 (1H, dd), 4.00 (1H, dd), 5.90 (2H, s), 7.20 (1H, d), 7.70 (1H, dd), 8.40 (1H, d) ppm. MS m/z 215 (MH+).

reactant | sodium borohydride | 109 mol, 4.11 Kg | [BH4-].[Na+]
reactant | 2-chloro-1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]ethanone | 120.6 mol, 30.0 Kg | ClCC(=O)C=1C=NC(=CC1)N1C(=CC=C1C)C | C13H13ClN2O
reactant | (S)-(+)-2-amino-1-propanol | 229 mol, 17.2 Kg | N[C@H](CO)C | C3H9NO
reactant | DCM | 150 L | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 140 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 L | O1CCCC1 | C4H8O
solvent | water | 15 L | O | H2O
solvent | tetrahydrofuran | 15 L | O1CCCC1 | C4H8O
solvent | Water | 15.0 L | O | H2O
product | (2S)-2-[{(RS)-2-[6-(2,5-dimethyl-1H-pyrrol-1-yl)pyridin-3-yl]-2-hydroxyethyl}amino]propan-1-ol | Yield=65% | CC=1N(C(=CC1)C)C1=CC=C(C=N1)C(CN[C@H](CO)C)O | C16H23N3O2
